*==============================================
*Misc. Models and Subcircuits
*Copyright (c) 1997 MicroCode Engineering, Inc.
*All Rights Reserved
*==============================================

*Deafult semiconductor capacitor
.MODEL CAP~ ()

*=======================================================
*Timer Pinout: Gnd,Trig,Out,Reset,Ctrl,Thresh,Dischg,Vcc
*=======================================================

*================================================
*UA555 MCE
*Sngl Timer (Component Model) pkg:DIP8 1,2,3,4,5,6,7,8
.SUBCKT UA555  99 32 30 19 23 33 1  21 
Q4 25 2 3 QP
Q5 0 6 3 QP
Q6 6 6 8 QP
R1 9 21 4.7K
R2 3 21 830
R3 8 21 4.7K
Q7 2 33 5 QN
Q8 2 5 17 QN
Q9 6 4 17 QN
Q10 6 23 4 QN
Q11 12 20 10 QP
R4 10 21 1K
Q12 22 11 12 QP
Q13 14 13 12 QP
Q14 0 32 11 QP
Q15 14 18 13 QP
R5 14 0 100K
R6 22 0 100K
R7 17 0 10K
Q16 1 15 0 QN
Q17 15 19 31 QP
R8 18 23 5K
R9 18 0 5K
R10 21 23 5K
Q18 27 20 21 QP
Q19 20 20 21 QP
R11 20 31 5K
D1 31 24 DA
Q20 24 25 0 QN
Q21 25 22 0 QN
Q22 27 24 0 QN
R12 25 27 4.7K
R13 21 29 6.8K
Q23 21 29 28 QN
Q24 29 27 16 QN
Q25 30 26 0 QN
Q26 21 28 30 QN
D2 30 29 DA
R14 16 15 100
R15 16 26 220
R16 16 0 4.7K
R17 28 30 3.9K
Q3 2 2 9 QP
.MODEL DA D (RS=40 IS=1.0E-14 CJO=1PF)
.MODEL QP PNP (BF=20 BR=0.02 RC=4 RB=25 IS=1.0E-14 VA=50 NE=2)  
+ CJE=12.4P VJE=1.1 MJE=.5 CJC=4.02P VJC=.3 MJC=.3 TF=229P TR=159N)
.MODEL QN NPN (IS=5.07F NF=1 BF=100 VAF=161 IKF=30M ISE=3.9P NE=2       
+ BR=4 NR=1 VAR=16 IKR=45M RE=1.03 RB=4.12 RC=.412 XTB=1.5      
+ CJE=12.4P VJE=1.1 MJE=.5 CJC=4.02P VJC=.3 MJC=.3 TF=229P TR=959P)
.ENDS UA555
*
*================================================
*UA556 MCE 2-20-96
*Dual Timer (Component Model) pkg:DIP14 (A:7,6,5,4,3,2,1,14)(B:7,8,9,10,11,12,13,14)
.SUBCKT UA556 1,2,3,4,5,6,7,8
X_UA555 1 2 3 4 5 6 7 8 UA555
.ENDS UA556

*================================================
*555 MCE
*Sngl Timer (Macromodel) pkg:DIP8 1,2,3,4,5,6,7,8
.SUBCKT 555 1 2 3 4 5 6 7 8 
EREF 15 1 8 1 .5
GSOURCE 8 3 8 26 12.5E-3
GSINK 3 1 26 1 67E-3
VD1 8 27 DC .8
VD2 28 1 DC .85
VREF 30 1 DC 1.2
C1 29 1 700E-15
RREF2 30 1 100E3
RREF 15 1 100E3
ROUT 3 1 100K
R1 6 1 500E9
R2 2 1 500E9
R3 8 5 75E3
R4 5 9 75E3
R5 9 1 75E3
R6 10 11 1E3
R7 13 14 1E3
R8 8 12 150E3
R9 4 8 500E9
R10 20 19 1E3
R11 16 17 1E3
R12 8 18 150E3
R13 8 21 150E3
R14 22 23 1E3
R15 8 26 150E3
R16 24 25 1E3
R19 7 1 500E9
R20 29 26 1E6
D1 1 11 DMOD
D2 12 11 DMOD
D3 12 14 DMOD
D4 1 14 DMOD
D5 18 17 DMOD
D6 1 17 DMOD
D7 18 19 DMOD
D8 1 19 DMOD
D9 21 14 DMOD
D10 21 25 DMOD
D11 1 23 DMOD
D12 18 23 DMOD
D13 26 25 DMOD
D14 1 25 DMOD1
D15 3 27 DMOD
D16 28 3 DMOD
E1 10 1 6 5 1000
E2 13 1 2 9 1000
E3 16 1 15 12 1000
E4 22 1 15 21 1000
E5 24 1 15 18 1000
E7 20 1 4 30 1000
M1 7 29 1 1 MOSMOD
.MODEL MOSMOD NMOS (LEVEL=1 KP=1 VTO=1 RD=5)
.MODEL DMOD D (RS=1E-6)
.MODEL DMOD1 D (RS=1E-6 IS=1E-9)
.ENDS 555
*
*================================================
*556 MCE 2-20-96
*Dual Timer (Macromodel) pkg:DIP14 (A:7,6,5,4,3,2,1,14)(B:7,8,9,10,11,12,13,14)
.SUBCKT 556  1,2,3,4,5,6,7,8
X_555 1 2 3 4 5 6 7 8 555
.ENDS 556

*================================================
*Math Functions for Current
*I-Math1 Pinout: +I -I -O +O
*================================================

*Absolute value of Current -- pkg:ABS(I)
.SUBCKT ABSI 1 2 3 4
VX 1 2 0
BX 4 3 I=ABS(I(VX))
.ENDS ABSI

*Arc cosine of Current -- pkg:ACOS(I)
.SUBCKT ACOSI 1 2 3 4
VX 1 2 0
BX 4 3 I=ACOS(I(VX))
.ENDS ACOSI

*Hyperbolic arc cosine of Current -- pkg:ACOSH(I)
.SUBCKT ACOSHI 1 2 3 4
VX 1 2 0
BX 4 3 I=ACOSH(I(VX))
.ENDS ACOSHI

*Arc sine of Current -- pkg:ASIN(I)
.SUBCKT ASINI 1 2 3 4
VX 1 2 0
BX 4 3 I=ASIN(I(VX))
.ENDS ASINI

*Hyperbolic arc sine of Current -- pkg:ASINH(I)
.SUBCKT ASINHI 1 2 3 4
VX 1 2 0
BX 4 3 I=ASINH(I(VX))
.ENDS ASINHI

*Arc tangent of Current -- pkg:ATAN(I)
.SUBCKT ATANI 1 2 3 4
VX 1 2 0
BX 4 3 I=ATAN(I(VX))
.ENDS ATANI

*Hyperbolic arc tangent of Current -- pkg:ATANH(I)
.SUBCKT ATANHI 1 2 3 4
VX 1 2 0
BX 4 3 I=ATANH(I(VX))
.ENDS ATANHI

*Cosine of Current -- pkg:COS(I)
.SUBCKT COSI 1 2 3 4
VX 1 2 0
BX 4 3 I=COS(I(VX))
.ENDS COSI

*Hyperbolic cosine of Current -- pkg:COSH(I)
.SUBCKT COSHI 1 2 3 4
VX 1 2 0
BX 4 3 I=COSH(I(VX))
.ENDS COSHI

*Exponential of Current -- pkg:EXP(I)
.SUBCKT EXPI 1 2 3 4
VX 1 2 0
BX 4 3 I=EXP(I(VX))
.ENDS EXPI

*Natural logarithm of Current -- pkg:LN(I)
.SUBCKT LNI 1 2 3 4
VX 1 2 0
BX 4 3 I=LN(I(VX))
.ENDS LNI

*Logarithm of Current -- pkg:LOG(I)
.SUBCKT LOGI 1 2 3 4
VX 1 2 0
BX 4 3 I=LOG(I(VX))
.ENDS LOGI

*Sine of Current -- pkg:SIN(I)
.SUBCKT SINI 1 2 3 4
VX 1 2 0
BX 4 3 I=SIN(I(VX))
.ENDS SINI

*Hyperbolic sine of Current -- pkg:SINH(I)
.SUBCKT SINHI 1 2 3 4
VX 1 2 0
BX 4 3 I=SINH(I(VX))
.ENDS SINHI

*Square root of Current -- pkg:SQRT(I)
.SUBCKT SQRTI 1 2 3 4
VX 1 2 0
BX 4 3 I=SQRT(I(VX))
.ENDS SQRTI

*Tangent of Current -- pkg:TAN(I)
.SUBCKT TANI 1 2 3 4
VX 1 2 0
BX 4 3 I=TAN(I(VX))
.ENDS TANI

*Unary - of Current -- pkg:-(I)
.SUBCKT UNARYI 1 2 3 4
VX 1 2 0
BX 4 3 I=-(I(VX))
.ENDS UNARYI

*================================================
*Math Operations for Current
*I-Math2 Pinout: A B O
*================================================

*Add Currents -- pkg:I(A+B)
.SUBCKT ADDI 1 2 3 4 5 6
VA 1 2 0
VB 3 4 0
BX 6 5 I=I(VA)+I(VB)
.ENDS ADDI

*Subtract Currents -- pkg:I(A-B)
.SUBCKT SUBI 1 2 3 4 5 6
VA 1 2 0
VB 3 4 0
BX 6 5 I=I(VA)-I(VB)
.ENDS SUBI

*Multiply Currents -- pkg:I(A*B)
.SUBCKT MULTI 1 2 3 4 5 6
VA 1 2 0
VB 3 4 0
BX 6 5 I=I(VA)*I(VB)
.ENDS MULTI

*Divide Currents -- pkg:I(A/B)
.SUBCKT DIVI 1 2 3 4 5 6
VA 1 2 0
VB 3 4 0
BX 6 5 I=I(VA)/I(VB)
.ENDS DIVI

*================================================
*Math Functions with Ground References
*V-Math1 Pinout: +I +O
*================================================

*Absolute value of Voltage -- pkg:ABS(V)
.SUBCKT ABSV 1 2
BX 2 0 V=ABS(V(1))
.ENDS ABSV

*Arc cosine of Voltage -- pkg:ACOS(V)
.SUBCKT ACOSV 1 2
BX 2 0 V=ACOS(V(1))
.ENDS ACOSV

*Hyperbolic arc cosine of Voltage -- pkg:ACOSH(V)
.SUBCKT ACOSHV 1 2
BX 2 0 V=ACOSH(V(1))
.ENDS ACOSHV

*Arc sine of Voltage -- pkg:ASIN(V)
.SUBCKT ASINV 1 2
BX 2 0 V=ASIN(V(1))
.ENDS ASINV

*Hyperbolic arc sine of Voltage -- pkg:ASINH(V)
.SUBCKT ASINHV 1 2
BX 2 0 V=ASINH(V(1))
.ENDS ASINHV

*Arc tangent of Voltage -- pkg:ATAN(V)
.SUBCKT ATANV 1 2
BX 2 0 V=ATAN(V(1))
.ENDS ATANV

*Hyperbolic arc tangent of Voltage -- pkg:ATANH(V)
.SUBCKT ATANHV 1 2
BX 2 0 V=ATANH(V(1))
.ENDS ATANHV

*Cosine of Voltage -- pkg:COS(V)
.SUBCKT COSV 1 2
BX 2 0 V=COS(V(1))
.ENDS COSV

*Hyperbolic cosine of Voltage -- pkg:COSH(V)
.SUBCKT COSHV 1 2
BX 2 0 V=COSH(V(1))
.ENDS COSHV

*Exponential of Voltage -- pkg:EXP(V)
.SUBCKT EXPV 1 2
BX 2 0 V=EXP(V(1))
.ENDS EXPV

*Natural logarithm of Voltage -- pkg:LN(V)
.SUBCKT LNV 1 2
BX 2 0 V=LN(V(1))
.ENDS LNV

*Logarithm of Voltage -- pkg:LOG(V)
.SUBCKT LOGV 1 2
BX 2 0 V=LOG(V(1))
.ENDS LOGV

*Sine of Voltage -- pkg:SIN(V)
.SUBCKT SINV 1 2
BX 2 0 V=SIN(V(1))
.ENDS SINV

*Hyperbolic sine of Voltage -- pkg:SINH(V)
.SUBCKT SINHV 1 2
BX 2 0 V=SINH(V(1))
.ENDS SINHV

*Square root of Voltage -- pkg:SQRT(V)
.SUBCKT SQRTV 1 2
BX 2 0 V=SQRT(V(1))
.ENDS SQRTV

*Tangent of Voltage -- pkg:TAN(V)
.SUBCKT TANV 1 2
BX 2 0 V=TAN(V(1))
.ENDS TANV

*Unary Minus of Voltage -- pkg:-(V)
.SUBCKT UNARYV 1 2
BX 2 0 V=-(V(1))
.ENDS UNARYV

*================================================
*Math Functions with References
*V-Math1 Ref Pinout: +I -I -O +O
*================================================

*Absolute value of Voltage -- pkg:ABS(V)
.SUBCKT ABSVR 1 2 3 4
BX 4 3 V=ABS(V(1,2))
.ENDS ABSVR

*Arc cosine of Voltage -- pkg:ACOS(V)
.SUBCKT ACOSVR 1 2 3 4
BX 4 3 V=ACOS(V(1,2))
.ENDS ACOSVR

*Hyperbolic arc cosine of Voltage -- pkg:ACOSH(V)
.SUBCKT ACOSHVR 1 2 3 4
BX 4 3 V=ACOSH(V(1,2))
.ENDS ACOSHVR

*Arc sine of Voltage -- pkg:ASIN(V)
.SUBCKT ASINVR 1 2 3 4
BX 4 3 V=ASIN(V(1,2))
.ENDS ASINVR

*Hyperbolic arc sine of Voltage -- pkg:ASINH(V)
.SUBCKT ASINHVR 1 2 3 4
BX 4 3 V=ASINH(V(1,2))
.ENDS ASINHVR

*Arc tangent of Voltage -- pkg:ATAN(V)
.SUBCKT ATANVR 1 2 3 4
BX 4 3 V=ATAN(V(1,2))
.ENDS ATANVR

*Hyperbolic arc tangent of Voltage -- pkg:ATANH(V)
.SUBCKT ATANHVR 1 2 3 4
BX 4 3 V=ATANH(V(1,2))
.ENDS ATANHVR

*Cosine of Voltage -- pkg:COS(V)
.SUBCKT COSVR 1 2 3 4
BX 4 3 V=COS(V(1,2))
.ENDS COSVR

*Hyperbolic cosine of Voltage -- pkg:COSH(V)
.SUBCKT COSHVR 1 2 3 4
BX 4 3 V=COSH(V(1,2))
.ENDS COSHVR

*Exponential of Voltage -- pkg:EXP(V)
.SUBCKT EXPVR 1 2 3 4
BX 4 3 V=EXP(V(1,2))
.ENDS EXPVR

*Natural logarithm of Voltage -- pkg:LN(V)
.SUBCKT LNVR 1 2 3 4
BX 4 3 V=LN(V(1,2))
.ENDS LNVR

*Logarithm of Voltage -- pkg:LOG(V)
.SUBCKT LOGVR 1 2 3 4
BX 4 3 V=LOG(V(1,2))
.ENDS LOGVR

*Sine of Voltage -- pkg:SIN(V)
.SUBCKT SINVR 1 2 3 4
BX 4 3 V=SIN(V(1,2))
.ENDS SINVR

*Hyperbolic sine of Voltage -- pkg:SINH(V)
.SUBCKT SINHVR 1 2 3 4
BX 4 3 V=SINH(V(1,2))
.ENDS SINHVR

*Square root of Voltage -- pkg:SQRT(V)
.SUBCKT SQRTVR 1 2 3 4
BX 4 3 V=SQRT(V(1,2))
.ENDS SQRTVR

*Tangent of Voltage -- pkg:TAN(V)
.SUBCKT TANVR 1 2 3 4
BX 4 3 V=TAN(V(1,2))
.ENDS TANVR

*Unary - of Voltage -- pkg:-(V)
.SUBCKT UNARYVR 1 2 3 4
BX 4 3 V=-(V(1,2))
.ENDS UNARYVR

*================================================
*Math Operations for Voltage
*V-Math2 Pinout: A B O
*================================================

*Add Voltages -- pkg:V(A+B)
.SUBCKT ADDV 1 2 3
BX 3 0 V=V(1)+V(2)
.ENDS ADDV

*Subrtact Voltages -- pkg:V(A-B)
.SUBCKT SUBV 1 2 3
BX 3 0 V=V(1)-V(2)
.ENDS SUBV

*Multiply Voltages -- pkg:V(A*B)
.SUBCKT MULTV 1 2 3
BX 3 0 V=V(1)*V(2)
.ENDS MULTV

*Divide Voltages -- pkg:V(A/B)
.SUBCKT DIVV 1 2 3
BX 3 0 V=V(1)/V(2)
.ENDS DIVV

*================================================
*Math Operations for Voltage
*V-Math2 Ref Pinout: +A -A +B -B -O +O
*================================================

*Add Voltages -- pkg:V(A+B)
.SUBCKT ADDVR 1 2 3 4 5 6
BX 6 5 V=V(1,2)+V(3,4)
.ENDS ADDVR

*Subrtact Voltages -- pkg:V(A-B)
.SUBCKT SUBVR 1 2 3 4 5 6
BX 6 5 V=V(1,2)-V(3,4)
.ENDS SUBVR

*Multiply Voltages -- pkg:V(A*B)
.SUBCKT MULTVR 1 2 3 4 5 6
BX 6 5 V=V(1,2)*V(3,4)
.ENDS MULTVR

*Divide Voltages -- pkg:V(A/B)
.SUBCKT DIVVR 1 2 3 4 5 6
BX 6 5 V=V(1,2)/V(3,4)
.ENDS DIVVR

